US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-ethylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-[6-(3-amino-4-ethylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (202 mg, 0.60 mmol) in N-methylpyrrolidone (3 mL) was added 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (143 mg, 0.90 mmol), and the mixture was stirred at room temperature for 8 hr. A 1N aqueous sodium hydroxide solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→80/20) and recrystallized from a mixed solvent of ethyl acetate/diisopropyl ether to give the title compound (167 mg, yield 61%) as a white solid.

reactant | N-[6-(3-amino-4-ethylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.60 mmol, 202 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1CC | C18H19N5O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.90 mmol, 143 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-ethylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 167 mg, yield 61% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)CC)C1 | C24H25N7O3
